US07541357B2
A mixture of (−)-4-benzo[b]thiophen-5-yl-7-methoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline (10.00 g, 32.3 mmol) which was obtained according to Step F in the preparation of Example 98 and sodium ethanethiolate (11.3 g, 134.3 mmol) in DMF (250 mL) was heated at 140° C. under an N2 atmosphere for 14 hours. The reaction mixture was cooled in an ice bath before addition of saturated NH4Cl (250 mL). The aqueous phase was extracted with DCM (3×750 mL) and the combined organic extracts washed with water (3×500 mL), brine, dried over Na2SO4 and concentrated in vacuo. The crude material was purified by silica gel column chromatography (eluent: 5% MeOH/CH2Cl2) to afford (−)-4-benzo[b]thiophen-5-yl-2-methyl-1,2,3,4-tetrahydroisoquinoline-7-ol (6.64 g, 70%) as an orange-brown solid: 1H NMR (300 MHz, CDCl3) δ 7.76 (d, J=8.3 Hz, 1H), 7.62 (s, 1H), 7.40 (d, J=5.4 Hz, 1H), 7.26-7.20 (m, 2H), 7.13 (d, J=8.4 Hz, 1H), 6.66 (d, J=8.3 Hz, 1H), 6.50-6.40 (m, 2H), 4.34 (dd, J=9.0, 6.0 Hz, 1H), 3.68 (d, J=15.0 Hz, 1H), 3.54 (d, J=15.0 Hz, 1H), 3.11 (dd, J=11.5, 5.7 Hz, 1H), 2.58 (dd, J=11.3, 9.7 Hz, 1H), 2.43 (s, 3H); ESI-MS m/z=296 [M+H]+.

reactant | (−)-4-benzo[b]thiophen-5-yl-7-methoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline | 32.3 mmol, 10.00 g | S1C2=C(C=C1)C=C(C=C2)C2CN(CC1=CC(=CC=C21)OC)C | C19H19NOS
reactant | sodium ethanethiolate | 134.3 mmol, 11.3 g | C(C)[S-].[Na+]
reactant | NH4Cl | 250 mL | [NH4+].[Cl-]
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | (−)-4-benzo[b]thiophen-5-yl-2-methyl-1,2,3,4-tetrahydroisoquinoline-7-ol | 6.64 g, 70% | S1C2=C(C=C1)C=C(C=C2)C2CN(CC1=CC(=CC=C21)O)C | C18H17NOS
